US05451339
A mixture of 1.3 g of 4-(7-octenyloxy)biphenyl4'-carboxylic acid and an excessive amount of thionyl chloride was refluxed for 6 hours, and then unaltered thionyl chloride was evaporated to leave 4-(7-octenyloxy)-biphenyl-4'-carbonyl chloride.

reactant | 4-(7-octenyloxy)biphenyl4'-carboxylic acid | 1.3 g | C(CCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H24O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(7-octenyloxy)-biphenyl-4'-carbonyl chloride | C(CCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H23ClO2
